US06998487B2
To a solution of 2-bromonaphthalene (6.49 g, 31.3 mmol) in dry THF (50 ml) was added dropwise t-BuLi (18.4 ml of a 1.7 M solution in pentane) at −78° C. under nitrogen. After the mixture had been stirred for 30 min, 2-bromoanthraquinone (3.00 g, 10.4 mmol) was added at −78° C. The cooling bath was removed and the mixture was stirred for 2 hours at room temperature. The mixture was quenched with saturated aqueous ammonium chloride solution (50 ml) and extracted with ethyl ether (3×50 ml). The combined organic extracts were dried over MgSO4 and concentrated under vacuum. The crude product was slurried in petroleum ether, filtered off with suction, and washed with petroleum ether. After drying, the 2-bromo-9,10-di-naphthalene-2-yl-9,10-dihydro-anthracene-9,10-diol (5.30 g, 93%) was obtained.

reactant | 2-bromonaphthalene | 31.3 mmol, 6.49 g | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | t-BuLi | [Li]C(C)(C)C
reactant | 2-bromoanthraquinone | 10.4 mmol, 3.00 g | BrC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C14H7BrO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 2-bromo-9,10-di-naphthalene-2-yl-9,10-dihydro-anthracene-9,10-diol | 5.30 g, 93% | BrC1=CC=2C(C3=CC=CC=C3C(C2C=C1)(O)C1=CC2=CC=CC=C2C=C1)(O)C1=CC2=CC=CC=C2C=C1 | C34H23BrO2
